US08222416B2
A mixture of 2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridine (260 mg, 6.8 mmol) and 10% palladium on activated carbon (66 mg) in methanol (200 mL) was heated at 50° C. under hydrogen (50 psi) and kept for 16 h. The mixture was cooled to 25° C., the catalyst filtered off, washed with ethyl acetate and concentrated in vacuo. Purification using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-ethyl]-1H-pyrrolo[2,3-b]pyridine (60 mg, 27%) as a white solid: LC/MS m/e calcd for C21H24N2O3S [M+H]+ 385.50, observed 385.1.

reactant | 2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridine | 6.8 mmol, 260 mg | CS(=O)(=O)C1=CC=C(C=C1)C(=CC1CCOCC1)C1=CC=2C(=NC=CC2)N1 | C21H22N2O3S
catalyst | palladium on activated carbon | 66 mg | [Pd] | Pd
solvent | methanol | 200 mL | CO | CH4O
product | 2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-ethyl]-1H-pyrrolo[2,3-b]pyridine | 60 mg, 27% | CS(=O)(=O)C1=CC=C(C=C1)C(CC1CCOCC1)C1=CC=2C(=NC=CC2)N1 | C21H24N2O3S
